US07105671B2
A solution of diisopropylamine (0.59 mL, 4.51 mmol) in tetrahydrofuran (30 mL) was cooled to −78° C. under an argon atmosphere and then was treated with a 2.5M solution of n-butyllithium in hexanes (1.8 mL, 4.51 mmol). The reaction mixture was stirred at −78° C. for 15 min, after which time, a solution of (3,4-dichloro-phenyl)-acetic acid methyl ester (825 mg, 3.76 mmol) in tetrahydrofuran (3 mL) and 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (1 mL) was slowly added via a cannula. The bright yellow solution was allowed to stir at −78° C. for 1 h, after which time, a solution of 2-iodomethyl-tetrahydro-furan (798 mg, 3.76 mmol) in 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (0.5 mL) was added via a cannula. The reaction mixture was stirred at −78° C. for 1 h and then allowed to warm to 25° C., where it was stirred for 14 h. The reaction mixture was then quenched by the addition of a saturated aqueous ammonium chloride solution (20 mL) and extracted with ethyl acetate (3×20 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 90/10 hexanes/ethyl acetate) afforded 2-(3,4-dichloro-phenyl)-3-(tetrahydro-furan-2-yl)-propionic acid methyl ester (501 mg, 44%) as a colorless oil: EI-HRMS m/e calcd for C14H16Cl2O3 (M+) 302.0477, found 302.0464.

reactant | diisopropylamine | 4.51 mmol, 0.59 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | (3,4-dichloro-phenyl)-acetic acid methyl ester | 3.76 mmol, 825 mg | COC(CC1=CC(=C(C=C1)Cl)Cl)=O | C9H8Cl2O2
reactant | 2-iodomethyl-tetrahydro-furan | 3.76 mmol, 798 mg | ICC1OCCC1 | C5H9IO
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 1 mL | CN1C(N(CCC1)C)=O | C6H12N2O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 0.5 mL | CN1C(N(CCC1)C)=O | C6H12N2O
product | 2-(3,4-dichloro-phenyl)-3-(tetrahydro-furan-2-yl)-propionic acid methyl ester | 501 mg, 44% | COC(C(CC1OCCC1)C1=CC(=C(C=C1)Cl)Cl)=O | C14H16Cl2O3
